US04118511
2-(propionylamino)-4-phenoxy-1-butanol propionate, described in Example 5, with propyliodide, followed by reduction gives 1-propoxy-N,N-dipropyl-4-phenoxy-2-butanamine,

reactant | 2-(propionylamino)-4-phenoxy-1-butanol propionate | C(CC)(=O)OCC(CCOC1=CC=CC=C1)NC(CC)=O | C16H23NO4
reactant | propyliodide | C(CC)I | C3H7I
product | 1-propoxy-N,N-dipropyl-4-phenoxy-2-butanamine | C(CC)OCC(CCOC1=CC=CC=C1)N(CCC)CCC | C19H33NO2
